US07728155B2
Treatment of (±)-tert-butyl(2,3-dihydronaphtho[1,2-b]furan-2-ylmethoxy)dimethylsilane (2.70 g; 8.59 mmol) with tetrabutylammonium fluoride (9.4 mL, 1.0 M solution in tetrahydrofuran) generally according to the procedure described for Intermediate 6 gave (±)-2,3-dihydronaphtho[1,2-b]furan-2-ylmethanol. Treatment of the alcohol with p-toluenesulfonyl chloride (1.64 g, 8.59 mmol), 4-(dimethylamino)pyridine (0.105 g, 0.86 mmol), and triethylamine (1.67 g, 12.89 mmol) generally according to the procedure described for Intermediate 14 provided (±)-2,3-dihydronaphtho[1,2-b]furan-2-ylmethyl 4-methylbenzenesulfonate. To a solution of the tosylate in dimethylsulfoxide (50 mL) was added sodium azide (0.558 g, 8.59 mmol) and the reaction mixture was allowed to stir at 70° C. for 12 h, cooled to room temperature, diluted with water (200 mL) and extracted with diethyl ether (2×100 mL). The combined organic extracts were washed with water (4×75 mL), saturated aqueous sodium chloride (75 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) provided 1.38 g (71%) of (±)-2-(azidomethyl)-2,3-dihydronaphtho[1,2-b]furan as a colorless oil. Rf=0.46 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C13H11N3O.0.1H2O: C, 68.77; H, 4.97; N, 18.51. Found: C, 68.4; H, 4.62; N, 18.12.

reactant | (±)-tert-butyl(2,3-dihydronaphtho[1,2-b]furan-2-ylmethoxy)dimethylsilane | 8.59 mmol, 2.70 g | C(C)(C)(C)[Si](C)(C)OCC1CC2=C(O1)C1=CC=CC=C1C=C2 | C19H26O2Si
reactant | tetrabutylammonium fluoride | 1.0 M, 9.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-2,3-dihydronaphtho[1,2-b]furan-2-ylmethanol | O1C2=C(CC1CO)C=CC1=CC=CC=C12 | C13H12O2
